US07153875B2
To a solution of 6-[3-(1-adamantyl)-4-t-butyldimethylsilanyloxyphenyl]-pyridin-3-carboxaldehyde (24.673 g, 0.0511 mol) in 330 mL of dry THF cooled to 0° C. was added dropwise 60.6 mL of 1.0 M solution of tetrabutylammonium fluoride in THF. After 10 minutes from the completion of the addition, the dark red solution was partitioned between EtOAc and 1 M HCl. The mixture was separated the organics were washed with brine, dried (MgSO4), filtered and evaporated. The resulting solid was dried under high vacuum to give 6-[3-(1-adamantyl)-4-hydroxy-phenyl]-pyridin-3-carboxaldehyde (100%). 1H NMR (300 MHz; CDCl3): δ 1.79 (brs, 6H), [2.09 (brs), 2.20 (s), 9 H], 6.47 (brs, 1H), 6.86 (d, J=8.1 Hz, 1H), 7.76 (dd, J1=8.1, J2=2.4 Hz, 1H), 8.01 (d, J=2.4 Hz, 1H), 8.17 (dd, J1=8.1, J2=2.4 Hz, 1H), 9.06 (d, J=2.4 Hz, 1H), 10.09 (s, 1H).

reactant | 6-[3-(1-adamantyl)-4-t-butyldimethylsilanyloxyphenyl]-pyridin-3-carboxaldehyde | 0.0511 mol, 24.673 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2O[Si](C)(C)C(C)(C)C)C2=CC=C(C=N2)C=O | C28H37NO2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 330 mL | C1CCOC1 | C4H8O
product | 6-[3-(1-adamantyl)-4-hydroxy-phenyl]-pyridin-3-carboxaldehyde | 100% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2O)C2=CC=C(C=N2)C=O | C22H23NO2
